US08048884B2
Preparation 11: {2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine
Dissolve {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-carbamic acid tert-butyl ester (3.8 g, 9.16 mmol, 1 eq.) in dichloromethane (20 mL). Add trifluoroacetic acid (41.2 g, 27.8 mL, 366.4 mmol, 40 eq.). Stir at room temperature for 1.5 hr. Partition the reaction mixture between aqueous 5N NaOH (pH aqueous layer=14) and dichlormethane. Separate the layers. Extract the aqueous layer with dichloromethane (2×50 mL). Combine the organic layers, dry over anhydrous Na2SO4, filter and concentrate to afford the title preparation (3.04 g, 100% yield). MS (loop): m/z=316.3 [M+H].

reactant | {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-carbamic acid tert-butyl ester | 9.16 mmol, 3.8 g, 1 eq. | C(C)(C)(C)OC(N(C)CCN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F)=O | C22H30FN5O2
reactant | trifluoroacetic acid | 366.4 mmol, 27.8 mL, 41.2 g, 40 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | {2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine | 100% yield | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCNC | C17H22FN5
